US05604229
2-Acetamido-2-(3-phenylpropyl)-1,3-propanediol (600 mg) was dissolved in 25 ml of methanol and 11.9 ml of a 1N aqueous sodium hydroxide solution was added thereto. The mixture was refluxed under heating for 6 hours. The mixture was poured into 30 ml of ice water and neutralized with dilute hydrochloric acid. The solvent was distilled away. Chloroform was added to the residue for extraction and the chloroform layer was washed and dried. The solvent was distilled away and the residue was purified by column chromatography (chloroform:methanol=9:1-4:1) to give 250 mg of 2-amino-2-(3-phenylpropyl)-1,3-propanediol as a pale yellow, oily substance.

reactant | 2-Acetamido-2-(3-phenylpropyl)-1,3-propanediol | 600 mg | C(C)(=O)NC(CO)(CO)CCCC1=CC=CC=C1 | C14H21NO3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 25 ml | CO | CH4O
product | 2-amino-2-(3-phenylpropyl)-1,3-propanediol | 250 mg | NC(CO)(CO)CCCC1=CC=CC=C1 | C12H19NO2
